US08283366B2
Step 1h: preparation of (R)-5-((3-Chloro-4-fluorophenyl)(hydroxy)methyl)-N,3-dihydroxy-4-(hydroxymethyl)picolinamide
The crude product from step 1 g, (R)-methyl 5-((3-Chloro-4-fluorophenyl)(hydroxy)methyl)-2,2-dimethyl-4H-[1,3]dioxino[4,5-c]pyridine-8-carboxylate, was dissolved in 4 mL of pyridine and 1.5 mL of 50% hydroxylamine in water producing a clear yellow solution that was then heated to 80° C. for 1 h (complete conversion). The aqueous pyridine was then evacuated by vacuum distillation and the residual oil dissolved in EtAc. Extraction with 10% citric acid removed residual pyridine and hydroxylamine. The organic phase became cloudy as deprotection of the acetonide was initiated. The EtAc was removed and the residual oil dissolved in 3 mL 70% formic acid. This solution was left to rest at RT for 30 min upon which completion of the deprotection was noted. The oil was then diluted with 20 mL of water and 70 mL of EtAc and the product was extracted into the organic phase. A black aqueous layer formed and was extracted with one 50 mL portion of EtAc. Following this extraction the organic phase was concentrated (to 20 mL) and extracted with 0.1N NaOH (2×20 mL). The aqueous layer was then removed and washed with hexane. The aqueous layer was again removed and acidified until complete precipitation of the product (acid pH) was observed. The precipitate was then extracted into EtAc and the aqueous layer back extracted. Evaporation of the solvent gave a foam product. MeCN (1 mL) was added to dissolve followed by hexane producing a biphasic mixture. Stirring for 30 min gave a crystalline powder precipitate which was filtered off yielding 0.56 g off-white powder.

reactant | (R)-methyl 5-((3-Chloro-4-fluorophenyl)(hydroxy)methyl)-2,2-dimethyl-4H-[1,3]dioxino[4,5-c]pyridine-8-carboxylate | ClC=1C=C(C=CC1F)[C@H](C1=C2C(=C(N=C1)C(=O)OC)OC(OC2)(C)C)O | C18H17ClFNO5
reactant | hydroxylamine | 1.5 mL | NO | H3NO
reactant | MeCN | 1 mL | CC#N | C2H3N
reactant | hexane | CCCCCC | C6H14
solvent | pyridine | 4 mL | N1=CC=CC=C1 | C5H5N
solvent | water | O | H2O
product | (R)-5-((3-Chloro-4-fluorophenyl)(hydroxy)methyl)-N,3-dihydroxy-4-(hydroxymethyl)picolinamide | 0.56 g | ClC=1C=C(C=CC1F)[C@H](C=1C(=C(C(=NC1)C(=O)NO)O)CO)O | C14H12ClFN2O5
